US05334576
Preparation of 5-(1-propynyl)-pyridine-2,3-dicarboxylic acid, diethyl ester
A stirred mixture of 3 g of 5-bromo-pyridine-2,3-dicarboxylic acid, diethyl ester, 0.1 g cuprous iodide and 0.7 g bis(triphenylphosphine)palladium(II)chloride in 40 mL dimethyl sulfoxide and 12 mL triethylamine is cooled to 10°, and 10 mL of liquid propyne is added. The reaction is stirred at room temperature thereafter for 16 hours, then is poured onto water and extracted with methylene chloride. The organic phase is washed with dilute hydrochloric acid, then water, then brine, and dried. Concentration in vacuo, and chromatography of the residue on silica gel using ether-hexane mixture affords the desired product as an oil.

reactant | 5-bromo-pyridine-2,3-dicarboxylic acid, diethyl ester | 3 g | BrC=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C11H12BrNO4
reactant | propyne | C#CC | C3H4
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
solvent | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-(1-propynyl)-pyridine-2,3-dicarboxylic acid, diethyl ester | C(#CC)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C14H15NO4
